US06350735B1
N-({6-[(2,2-Diphenylethyl)amino]-9H-purin-2-yl}methyl)-2-methyl-1-propanesulfonamide hydrochloride
A solution of N-({6-[(2,2-diphenylethyl)amino]-9-tetrahydro-2H-pyran-2-yl-9H-purin-2-yl}methyl)-2-methyl-1-propanesulfonamide (4.30 g, 7.84 mmol) (Preparation 7) in ethanol (100 ml) was heated to 37° C. and then treated with hydrochloric acid (2N, 15 ml). The mixture was left to stand at room temperature for 18 hours, after which time a crystalline precipitate was filtered off, washed with ethanol (10 ml) and dried to afford the title compound as a solid (3.0 g).

reactant | N-({6-[(2,2-diphenylethyl)amino]-9-tetrahydro-2H-pyran-2-yl-9H-purin-2-yl}methyl)-2-methyl-1-propanesulfonamide | 7.84 mmol, 4.30 g | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)CNS(=O)(=O)CC(C)C)C1OCCCC1)C1=CC=CC=C1 | C29H36N6O3S
reactant | hydrochloric acid | 2N, 15 ml | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-({6-[(2,2-Diphenylethyl)amino]-9H-purin-2-yl}methyl)-2-methyl-1-propanesulfonamide hydrochloride | 3.0 g | Cl.C1(=CC=CC=C1)C(CNC1=C2N=CNC2=NC(=N1)CNS(=O)(=O)CC(C)C)C1=CC=CC=C1 | InChI=1S/C24H28N6O2S.ClH/c1-17(2)15-33(31,32)28-14-21-29-23(22-24(30-21)27-16-26-22)25-13-20(18-9-5-3-6-10-18)19-11-7-4-8-12-19;/h3-12,16-17,20,28H,13-15H2,1-2H3,(H2,25,26,27,29,30);1H
